US07884210B2
A mixture of 4-carboxymethylcyclohexanone (21 g), ethylene glycol (19 g) and benzene (250 mL) was heated at reflux for 20 h with Dean Stark azeotropic removal of water. After cooling the solution was washed with sodium bicarbonate solution, dried over magnesium sulphate and concentrated. The crude ketal was then taken up in diethyl ether (250 mL) and lithium aluminium hydride (7 g) was added. The mixture was stirred overnight and then water (20 mL), 10% sodium hydroxide (30 mL) and water (30 mL) was added carefully. Sodium sulphate (30 g) was then added and the mixture stirred for 20 min. The insoluble material was removed by filtration and the organic phase concentrated in vacuo to give (1,4-dioxaspiro[4.5]dec-8-yl)-methanol (21 g).

reactant | 4-carboxymethylcyclohexanone | 21 g | C(=O)(O)CC1CCC(CC1)=O | C8H12O3
reactant | ethylene glycol | 19 g | C(CO)O | C2H6O2
reactant | benzene | 250 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | (1,4-dioxaspiro[4.5]dec-8-yl)-methanol | 21 g | O1CCOC12CCC(CC2)CO | C9H16O3
